US07553833B2
In a manner similar to the method described in example 2 (method B), rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(2,2-dimethylpropoxy)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (167.0 mg, 0.37 mmole) was reacted with NH2OH—HCl (52.0 mg, 0.74 mmol), NaOH (30.0 mg, 0.74 mmole) in EtOH-water (3/2, 7.5 mL) at refluxing for 1 h, followed by reacting with p-toluenesulfonyl chloride (102.0 mg, 0.51 mmol) in dichloromethane (10 mL) at room temperature for 2 hrs, and heating under microwave irradiation at 100° C. for 30 min. After diluted with AcOEt the mixture was washed with water, dried over Na2SO4 and concentrated. The residue was purified by chiral column chromatography to give 3R,4S,5R)-6′-chloro-3-(3-chlorophenyl)-5-(2,2-dimethylpropoxy)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (11.0 mg): HRMS (ES+) m/z Calcd for C24H26Cl2N2O3+H [(M+H)+]: 461.1393, Found: 461.1393; (3S,4R,5S)-6′-chloro-3-(3-chlorophenyl)-5-(2,2-dimethylpropoxy)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (7.0 mg): HRMS (ES+) m/z Calcd for C24H26Cl2N2O3+H [(M+H)+]: 461.1393, Found: 461.1393; (3R,4R,5S)-6′-chloro-5-(3-chlorophenyl)-3-(2,2-dimethylpropoxy)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (7.0 mg): HRMS (ES+) m/z Calcd for C24H26Cl2N2O3+H [(M+H)+]: 461.1393, Found: 461.1394; (3S,4S,5R)-6′-chloro-5-(3-chlorophenyl)-5-(2,2-dimethylpropoxy)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (7.0 mg): HRMS (ES+) m/z Calcd for C24H26Cl2N2O3+H [(M+H)+]: 461.1393, Found: 461.1394.

reactant | rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(2,2-dimethylpropoxy)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 0.37 mmole, 167.0 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3OCC(C)(C)C)=O)C3=CC(=CC=C3)Cl | C24H25Cl2NO3
reactant | NH2OH—HCl | 0.74 mmol, 52.0 mg | NO.Cl
reactant | NaOH | 0.74 mmole, 30.0 mg | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 0.51 mmol, 102.0 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | EtOH water | 7.5 mL | CCO.O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 6′-chloro-3-(3-chlorophenyl)-5-(2,2-dimethylpropoxy)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione | 11.0 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CNC(CC3OCC(C)(C)C)=O)C3=CC(=CC=C3)Cl | C24H26Cl2N2O3
